US07271197B2
i) 3-(4-Hydroxybut-1-ynyl)phenyl acetate
A solution of 3-iodophenyl acetate (5.6 g) (J. Org. Chem. 1983, 48,1542-4) in acetonitrile (100 mL) was treated with (Ph3P)2PdCl2 (673 mg) and Cul (368 mg) and stirred at room temperature. 3-Butyn-1-ol (1.78 g) was added and the reaction mixture stirred for a further 20 h and concentrated in vacuo. The residue was purified by chromatography (SPE, gradient from cyclohexane to DCM) to give the title compound. LCMS RT=2.54 min

reactant | 3-iodophenyl acetate | 5.6 g | C(C)(=O)OC1=CC(=CC=C1)I | C8H7IO2
reactant | 3-Butyn-1-ol | 1.78 g | C(CC#C)O | C4H6O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | (Ph3P)2PdCl2 | 673 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-Hydroxybut-1-ynyl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)C#CCCO | C12H12O3
